US07772253B2
4-tert-Butyl-N-[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-benzamide
The title compound (13 mg, 30%) was prepared analogously to example 8 by coupling of 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine with 4-tert-butylbenzoic acid. MS: 429.5 (MH+)

reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | 4-tert-butylbenzoic acid | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
product | 4-tert-Butyl-N-[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-benzamide | 13 mg, 30% | C(C)(C)(C)C1=CC=C(C(=O)NC2CCN(CC2)CC2=CC(=C(C=C2)Cl)OCC)C=C1 | C25H33ClN2O2
